2131-10-13 05:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2131-10-12**] 09:30 AM
   renal
 ARTERIAL LINE - START [**2131-10-12**] 04:16 PM
   - A-line placed
   - 4 amps NaCO3
   - fluids switched to D5W
   - Renal ultrasound - normal
   - Renal consult rec: ammonia, IVFs
   - VA records obtained
   - insulin increased
   - [**1-7**] sec run of wide complex tachycardia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2131-10-12**] 03:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-13**] 05:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 81 (68 - 94) bpm
   BP: 150/63(89) {93/47(15) - 152/65(91)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 89.5 kg (admission): 91.4 kg
             Total In:
                                                                  3,744 mL
                                                                  1,044 mL
   PO:
             TF:
   IVF:
                                                                  3,544 mL
                                                                  1,044 mL
   Blood products:
   Total out:
                                                                  4,720 mL
                                                                  1,350 mL
   Urine:
                                                                  4,720 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -976 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///15/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash:
   Neurologic: Patient able to interact and speak more clearly today.
   Continues to have some memory deficits.
   Labs / Radiology
   222 K/uL
   10.4 g/dL
   208 mg/dL
   2.6 mg/dL
   15 mEq/L
   3.9 mEq/L
   92 mg/dL
   135 mEq/L
   158 mEq/L
   31.4 %
   3.7 K/uL
        [image002.jpg]
                             [**2131-10-12**]  02:48 AM
                             [**2131-10-12**]  04:46 AM
                             [**2131-10-12**]  09:58 AM
                             [**2131-10-12**]  03:23 PM
                             [**2131-10-12**]  08:35 PM
                             [**2131-10-13**]  12:26 AM
                             [**2131-10-13**]  04:00 AM
   WBC
   2.7
   3.7
   Hct
   34.2
   31.4
   Plt
   209
   222
   Cr
   3.8
   3.2
   2.9
   2.8
   2.7
   2.6
   TCO2
   7
   Glucose
   134
   204
   201
   192
   234
   208
   Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Repeat Chem 7 with Na 153.
   Assessment and Plan
   A/P: 66 M with PMH of EtOH abuse, HTN, hypothyroidism, neuropathic
   pain, type 2 diabetes, and bladder and prostate cancer s/p ilieal
   conduit, found unresponsive at home; found to have severe nongap
   metabolic acidosis, hyperkalemia, likely acute renal failure.
   .
   # Severe metabolic acidosis.  Normal AG of 10.  Tox screen negative.
   Common AG acidosis triggers negative (lactate and ketones).
   Methanol/Eth glycol less likely, as would expect anion gap but will
   check levels and would be reasonable to start fomepizole per toxicology
   recs.  Regarding non-gap etiologies; ARF seems most likely.  No
   evidence of GI losses.  Respiratory compensation only slightly
   suboptimal (mild relative respiratory acidosis).  Most likely related
   to underlying low bicarb in the setting of an ileal conduit complicated
   by poor PO intake.  Received NaHCO3 & D5W yesterday
   - Cont. D5W, increased to 250 mL/hr
   - Follow lytes Q4H
   - Pt. can drink to thirst now that mental status has improved.
   .
   # Altered mental status.  Most likely toxic metabolic given the above.
   Possibility of ingestions, tox negative, getting toxic alcohols as
   above.  CT head read as without acute process per OSH ED records.  LFTs
   normal.  No role for NAC per tox (given negative level and normal
   LFTs).  He appears to be protecting his airway.  Mental status much
   improved today.
   - follow
   - avoid sedating meds
   .
   # Renal failure - acute on chronic.  Recent creatinine from VA records
   = 1.7.  Still above baseline, but much improved today.  Patient has
   impressive urine output, so obstruction is unlikely.   Urine ultrasound
   wnl.  Per VA records pt. has previous history of acute on chronic renal
   failure.  Acute worsening of renal function likely a mix of pre-renal
   and metabolic abnormalities on presentation.
   - urine lytes
   - trend creatinine
   - nephrology following, their recs appreciated.  \
   - renally dose meds
   .
   # Positive UA. unclear anatomy. ? ileum serving as bladder, in which
   case significance of pyuria is unclear.  [**Name2 (NI) **] is afebrile and HD stable.
   - hold on antibiotics for now unless fevers, etc
   - gather info on anatomy and past urologic procedures
   - consider urology consult
   .
   # Hyperkalemia. no acute EKG changes on presentation.  Hyperkalemia now
   resolved.  Will continue to follow.
   .
   # Hypernatremia.  Free water deficit roughly 7L today.  Elevation in Na
   overnight likely related to combination of sodium in NaHCO3 and
   impressive urine output, likely very dilute.
   - cont. free water repletion with D5W
   - allow patient to drink water now that MS has improved
   - urine lytes
   .
   # Anemia. mild, unclear baseline.
   - follow
   .
   # hx of HTN. Is on lisinopril as an outpatient, but will hold this
   medication given current acute worsening of renal function.
   - will trial hydralazine today
   .
   # PPx: H2 blocker, bowel reg, sc heparin
   .
   # Code: presumed full
   .
   # Dispo: ICU, can likely be called out to floor tomorrow.
   # Communication: Spoke with patient
s HC proxy & next of [**Doctor First Name **], his
   sister [**Name (NI) **] [**Name (NI) 463**] [**Name (NI) 1936**] ([**Telephone/Fax (1) 1937**]).  If possible, would prefer for
   patient to be transferred to the [**Hospital1 868**], [**Hospital **] [**Hospital6 1938**] where
   the patient receives most of his medical care and has been hospitalized
   previously.  Records from there were obtained last night and inserted
   into the chart.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-10-12**] 12:00 PM
   Arterial Line - [**2131-10-12**] 04:16 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 66 yo M with  bladder / prostate cancer with
   renal diversion, EtOH abuse, HTN, DM2 admitted with NAG acidosis,
   hypernatremia, hyperkalemia and ARF. Found down by family with profound
   aciosis, pH 7.0. Yesterday had A-line placed, renal us unremarkable,
   bicarb and D5, renal consult appreciated, insulin regimen increased.
   Had run wide complex tachycardia last night, HD stable.
   Exam notable for Tm 98.2   Tc 97.8 BP 132/65 HR 68-94 RR 18 with sat 99
   on RA, - 1 Liter  More alert (oriented X 3, only confused about
   which hospital but knows he is in ICU), cooperative, in NAD. CTA B rrr
   Soft NT +BS. No edema. Labs notable for WBC 3.7, HCT 31.4, na 155, K+
   4.0, Cr 2.4 (coming down). No new CXR; MICRO with urine GNRs --> 100K e
   coli ( [**5-15**] rbc and wbc on u/a)
   66 yo M who presented with profound NAG acidosis and ARF.
   Agree with plan to continue rehydration with NaHCO3 IVP and
   aggressive IV D5W repletion for acidosis and hypernatremia.
   Hyperkalemia has resolved.  AMS likely related to electrolyte
   abnormlaities and hypernatremia, now much improved. Appreciate renal
   input.  ARF is improving (VA OSH lab of 1.7 cr-? baseline). U/a with >
   100K e coli but given diversion suspect this is colonization as [**5-15**]
   rbc and wbc on u/a, remains af, and hemodynamically stable. Will need
   RISS for hyperglycemia in the setting of DM2 and aggressive D5W
   repletion. Will continue CIWA for possible etoh withdrawal-though has
   not required. Will start hydral for htn. OSH records list lisinopril,
   but will continue to hold given ARF. Will restart synthroid (check TSH)
   and asa. Advance diet with supervision. Remainder of plan as outlined
   above. Improving clinically but continue in ICU for now.  Monitor tachy
   runs on tele and follow lytes closely. Anticipate transition to floor
   tomorrow.
   Patient is critically ill.
   Total time: 40 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 209**] [**Last Name (NamePattern1) 210**], MD
   on:[**2131-10-13**] 08:14 PM ------